US07902373B2
Benzyl 4-aminopiperidine-1-carboxylate (11 g, 46.9 mmol), EDAC (9.94 g, 51.9 mmol), NMM (20.7 mL, 189 mmol) and HOBt*H2O (7.22 g, 47 mmol) were added to a solution of 6-(3-fluorophenyl)nicotinic acid (10.2 g, 47 mmol) in dichloromethane:DMF (200 mL:2 mL). The reaction mixture was stirred at room temperature for 18 h, evaporated, and chromatographed (silica gel, ethyl acetate-hexane, 2:1). The solvent was evaporated to give tert-butyl 4-(2-(3-fluorophenyl)nicotinamido)piperidine-1-carboxylate (yield 61%, 12.7 g). LC/MS=434 observed, 434.19 expected

reactant | Benzyl 4-aminopiperidine-1-carboxylate | 46.9 mmol, 11 g | NC1CCN(CC1)C(=O)OCC1=CC=CC=C1 | C13H18N2O2
reactant | EDAC | 51.9 mmol, 9.94 g | CCN=C=NCCCN(C)C | C8H17N3
reactant | NMM | 189 mmol, 20.7 mL | CN1CCOCC1 | C5H11NO
reactant | HOBt | 47 mmol, 7.22 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | 6-(3-fluorophenyl)nicotinic acid | 47 mmol, 10.2 g | FC=1C=C(C=CC1)C1=NC=C(C(=O)O)C=C1 | C12H8FNO2
reactant | dichloromethane | ClCCl | CH2Cl2
solvent | DMF | 200 mL | CN(C)C=O | C3H7NO
product | tert-butyl 4-(2-(3-fluorophenyl)nicotinamido)piperidine-1-carboxylate | 12.7 g, yield 61% | FC=1C=C(C=CC1)C1=C(C(=O)NC2CCN(CC2)C(=O)OC(C)(C)C)C=CC=N1 | C22H26FN3O3
